US04524073
N-Benzyl-4-methyl-4-nitro-pent-1-ylamine
To a stirred mixture of benzylamine (9 ml) and triethylamine (5.5 ml) was added 4-methyl-4-nitro-1-tosyloxypentane (11.9 gm). The mixture was then heated to 70° C. for 2 hrs. The mixture was cooled and partitioned between ethyl acetate and water, the ethyl acetate solution was washed twice with water, then with brine and dried over magnesium sulphate. The solution was evaporated and the product isolated by column chromatography of the residue using gradient elution (Kieselgel; 1:1 60/80 petroleum ether:ethyl acetate going to ethyl acetate). Yield 6.89 gm.

reactant | benzylamine | 9 ml | C(C1=CC=CC=C1)N | C7H9N
reactant | 4-methyl-4-nitro-1-tosyloxypentane | 11.9 gm | CC(CCCOS(=O)(=O)C1=CC=C(C)C=C1)(C)[N+](=O)[O-] | C13H19NO5S
solvent | triethylamine | 5.5 ml | C(C)N(CC)CC | C6H15N
product | N-Benzyl-4-methyl-4-nitro-pent-1-ylamine | C(C1=CC=CC=C1)NCCCC(C)([N+](=O)[O-])C | C13H20N2O2
